US04307104
2-[2-(2-Guanidino-4-thiazolylmethylthio)ethylamino-]-3-nitro-5-(2-phenylethyl)-1,4,5,6-tetrahydropyridine
The title compound is prepared from 2-(2-guanidino-4-thiazolylmethylthio)ethylamine and 2-methylthio-3-nitro-5-(2-phenylethyl)-1,4,5,6-tetrahydropyridine by a process analogous to that given in Example 1.

reactant | 2-(2-guanidino-4-thiazolylmethylthio)ethylamine | N(C(=N)N)C=1SC=C(N1)CSCCN | C7H13N5S2
reactant | 2-methylthio-3-nitro-5-(2-phenylethyl)-1,4,5,6-tetrahydropyridine | CSC=1NCC(CC1[N+](=O)[O-])CCC1=CC=CC=C1 | C14H18N2O2S
product | 2-[2-(2-Guanidino-4-thiazolylmethylthio)ethylamino-]-3-nitro-5-(2-phenylethyl)-1,4,5,6-tetrahydropyridine | N(C(=N)N)C=1SC=C(N1)CSCCNC=1NCC(CC1[N+](=O)[O-])CCC1=CC=CC=C1 | C20H27N7O2S2
